US05362736
(1) Preparation of 6,7-dimethoxy-1-(4-methoxybenzyl)-2-(N,N-dimethylaminoacetyl)-1,2,3,4-tetrahydroisoquinolin-8-ol
To a suspension of 6,7-dimethoxy-1-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinolin-8-ol (103 mg, 0.312 mmole) in dichloromethane (2 ml) were added N,N-dimethylglysine hydrochloride (52.2 mg, 0.374 mole) and HOBt (57.3 mg, 0.374 mmole) at room temperature under nitrogen. Then triethylamine (56.5 μl, 0.405 mmole) and EDCI (71.7 mg, 0.374 mmole) were added to the mixture at 0° C. The reaction mixture was stirred at 0° C. for 1.5 hours and at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, and water was added to the residue. The mixture was extracted with chloroform. The combined extracts were successively washed with a saturated aqueous sodium hydrogencarbonate solution and brine, dried over MgSO4, and concentrated under reduced pressure. The residue was recrystallized from methanol to give the desired compound (78.4 mg) as colorless crystals.

reactant | 6,7-dimethoxy-1-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinolin-8-ol | 0.312 mmole, 103 mg | COC=1C=C2CCNC(C2=C(C1OC)O)CC1=CC=C(C=C1)OC | C19H23NO4
reactant | hydrochloride | 0.374 mole, 52.2 mg | Cl | ClH
reactant | HOBt | 0.374 mmole, 57.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.405 mmole, 56.5 μl | C(C)N(CC)CC | C6H15N
reactant | EDCI | 0.374 mmole, 71.7 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6,7-dimethoxy-1-(4-methoxybenzyl)-2-(N,N-dimethylaminoacetyl)-1,2,3,4-tetrahydroisoquinolin-8-ol | 78.4 mg | COC=1C=C2CCN(C(C2=C(C1OC)O)CC1=CC=C(C=C1)OC)C(CN(C)C)=O | C23H30N2O5
